* C:\users\rigobertoruiz98\Documents\ltspice\10_ac_analysis\AC_Analysis.asc
XU1 N003 Vo 5V -5V Vo TL082
R1 N003 N001 15K
R2 N001 N002 8.87K
C1 N003 0 470p
C2 Vo N001 0.001µ
V1 N002 0 AC 1
V2 5V 0 5
V3 0 -5V 5
.ac dec 10 10 1meg
.include "TL082.301"
.backanno
.end
