* C:\users\rigobertoruiz98\Documents\LTspice\13 - Fuentes de comportamiento (Behavioral sources)\behavioralSources.asc
D1 N001 N002 1N4148
R1 N001 Portadora 100k
R2 N008 Moduladora 100k
Ri1 N003 N002 100k
Ri2 N003 N009 100k
Rf1 N004 N003 80k
V1 15V 0 15
V2 -15V 0 -15
V3 Portadora 0 SINE(1 1 1k)
V4 Moduladora 0 PULSE(1 0 0 0.01 0.01 1f 0.02)
Rf2 N006 N005 47
D2 N008 N009 1N4148
D3 N004 N005 1N4148
XU1 0 N008 15V -15V N009 LT1001
XU2 0 N001 15V -15V N002 LT1001
XU3 0 N003 15V -15V N004 LT1001
XU4 N007 N005 15V -15V N006 LT1001
V5 N007 0 0
B1 N010 0 V= -0.05*exp( log( V(Portadora) ) + log( V(Moduladora) ) )
.model D D
.lib C:\users\rigobertoruiz98\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100m
.lib LTC.lib
.backanno
.end
